US09278960B2
A stirred solution of methyl 7-[2-(6-cyanopyridin-3-yl)ethyl]-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carboxylate (160 mg, 0.362 mmol) and MeOH (1450 μl) was treated with 5 ml 7N NH3/MeOH and then heated to 60° C. in a sealed tube for 30 minutes. The reaction was allowed to cool to ambient temperature and then was concentrated. The solid was trituated with EtOH, collected, washed with 5 ml Et2O and then dried in vacuo to afford 7-[2-(6-cyanopyridin-3-yl)ethyl]-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carboxamide (105 mg, 0.246 mmol, 67.9% yield) as a colorless solid.

reactant | methyl 7-[2-(6-cyanopyridin-3-yl)ethyl]-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carboxylate | 0.362 mmol, 160 mg | C(#N)C1=CC=C(C=N1)CCC1=CC=C2C(=CC(=NC2=C1)C(=O)OC)C1=C(C=C(C=C1)OC)F | C26H20FN3O3
reactant | NH3 MeOH | 7N, 5 ml | N.CO
solvent | MeOH | 1450 μl | CO | CH4O
product | 7-[2-(6-cyanopyridin-3-yl)ethyl]-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carboxamide | 0.246 mmol, 105 mg, 67.9% yield | C(#N)C1=CC=C(C=N1)CCC1=CC=C2C(=CC(=NC2=C1)C(=O)N)C1=C(C=C(C=C1)OC)F | C25H19FN4O2
